US09108957B2
To a slurry of 2-chloro-1-methyl-1H-[4,4′]bipyrimidinyl-6-one (113 mg, 0.507 mmol) and 6-methyl-[1,4]oxazepane hydrochloride (100 mg, 0.660 mmol) in tetrahydrofuran (1.1 mL) was added triethylamine (154 mg, 1.52 mmol) at room temperature. The mixture was stirred for 15 hours and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The crude product was washed with ether and dried under reduced pressure to afford 1-methyl-2-(6-methyl-[1,4]oxazepan-4-yl)-1H-[4,4′]bipyrimidinyl-6-one (A087) as white solid (92.2 mg, 60%).

reactant | 2-chloro-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | 0.507 mmol, 113 mg | ClC=1N(C(C=C(N1)C1=NC=NC=C1)=O)C | C9H7ClN4O
reactant | 6-methyl-[1,4]oxazepane hydrochloride | 0.660 mmol, 100 mg | Cl.CC1CNCCOC1
reactant | triethylamine | 1.52 mmol, 154 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1.1 mL | O1CCCC1 | C4H8O
product | 1-methyl-2-(6-methyl-[1,4]oxazepan-4-yl)-1H-[4,4′]bipyrimidinyl-6-one | 92.2 mg, 60% | CN1C(=NC(=CC1=O)C1=NC=NC=C1)N1CCOCC(C1)C | C15H19N5O2
